US07205302B2
(±)-3-[2-(tert-butyldimethylsilyloxy)ethyl]-1-(5,6-diphenylpyrazin-2-yl)piperidine
In the same manner as in the step 1 of Example 9, except that 2-chloro-5,6-diphenylpyrazine was used in place of 2-chloro-5,6-di-p-tolylpyrazine and (±)-3-[2-(tert-butyldimethylsilyloxy)ethyl]piperidine was used in place of 4-(methylamino)-1-butanol, the desired compound was prepared.

reactant | 2-chloro-5,6-diphenylpyrazine | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | (±)-3-[2-(tert-butyldimethylsilyloxy)ethyl]piperidine | [Si](C)(C)(C(C)(C)C)OCCC1CNCCC1 | C13H29NOSi
product | (±)-3-[2-(tert-butyldimethylsilyloxy)ethyl]-1-(5,6-diphenylpyrazin-2-yl)piperidine | [Si](C)(C)(C(C)(C)C)OCCC1CN(CCC1)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H39N3OSi
